US04902794
In a manner similar to Example 12, a mixture of 8-chloro-1-(hydroxymethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine and butyric anhydride was heated on the water bath to give 8-chloro-1-hydroxymethyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine butyrate (ester).

reactant | 8-chloro-1-(hydroxymethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CO)C3=C(C=CC=C3)Cl)C1 | C17H12Cl2N4O
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | water | O | H2O
product | 8-chloro-1-hydroxymethyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine butyrate | C(CCC)(=O)O.ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CO)C3=C(C=CC=C3)Cl)C1 | InChI=1S/C17H12Cl2N4O.C4H8O2/c18-10-5-6-14-12(7-10)17(11-3-1-2-4-13(11)19)20-8-15-21-22-16(9-24)23(14)15;1-2-3-4(5)6/h1-7,24H,8-9H2;2-3H2,1H3,(H,5,6)
